US07163947B2
N-Cyclohexyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine (0.51 g, 1.57 mmol) was placed in a 200 mL round bottom flask, purged with N2 and dissolved in dichloromethane (25 mL). MCPBA (0.484 g, 1.96 mmol, 77% max) was added over a S min period. The reaction was stirred at room temperature under N2. After 2 h, analysis by thin layer chromatography (TLC) (SiO2, 95:5 chloroform:methanol) showed complete conversion. The solution was diluted with dichloromethane (15 mL) and 2% sodium carbonate solution (15 mL). The mixture was transferred to a separatory funnel, and the phases were separated. The organic portion was washed sequentially with 2% sodium carbonate solution (15 mL), water (15 mL) and brine (15 mL), dried (Na2SO4), filtered and then concentrated to yield 0.431 g of N-cyclohexyl-2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-amine as a tan foam.

reactant | N-Cyclohexyl-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-amine | 1.57 mmol, 0.51 g | C1(CCCCC1)NN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C19H24N4O
reactant | MCPBA | 1.96 mmol, 0.484 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | sodium carbonate | 15 mL | C([O-])([O-])=O.[Na+].[Na+]
product | N-cyclohexyl-2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-amine | 0.431 g | C1(CCCCC1)NN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])COCC | C19H24N4O2
